US05140038
a) ethyl 5-[4-(2-aminoethyl)-cyclohexyl]-pentanoate hydrochloride
by hydrogenation of ethyl 5-[4-(2-aminoethyl)-phenyl]-pentanoate hydrochloride in the presence of platinum in glacial acetic acid. Yield 57% of theory; hydrochloride wax-like substance.

reactant | ethyl 5-[4-(2-aminoethyl)-phenyl]-pentanoate hydrochloride | Cl.NCCC1=CC=C(C=C1)CCCCC(=O)OCC
reactant | hydrochloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | platinum | [Pt] | Pt
product | ethyl 5-[4-(2-aminoethyl)-cyclohexyl]-pentanoate hydrochloride | Yield 57% | Cl.NCCC1CCC(CC1)CCCCC(=O)OCC | InChI=1S/C15H29NO2.ClH/c1-2-18-15(17)6-4-3-5-13-7-9-14(10-8-13)11-12-16;/h13-14H,2-12,16H2,1H3;1H
